US07183304B2
To a solution of phenyl disulfide (4.36 g, 20 mmol) in dichloromethane (40 mL) at 0° C. is added a solution of chlorosulfonic acid (4.64 g, 2.95 mL, 40 mmol) in dichloromethane (60 mL) dropwise. The mixture is stirred at 0° C. for 1 hour followed by 1.5 hours at room temperature. The reaction mixture is concentrated to dryness in vacuo and the residue is partitioned between diethyl ether and water. The water phase is separated, made basic with 2N aqueous sodium hydroxide and concentrated in vacuo to half the volume. The resulting solution is refrigerated overnight. The precipitate formed overnight is discarded, the filtrate is concentrated further in vacuo until a solid started to appear. The mixture is placed in the refrigerator for 2 hours. The mixture is treated with ethanol, the solid formed is filtered, washed with ethanol twice and dried under high vacuum overnight at room temperature to give 6.0 g of 4,4′-dithiobisbenzenesulfonic acid as a white solid: [M−1]−=398.8.

reactant | phenyl disulfide | 20 mmol, 4.36 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | chlorosulfonic acid | 40 mmol, 2.95 mL, 4.64 g | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 4,4′-dithiobisbenzenesulfonic acid | 6.0 g | C1(=CC=C(C=C1)SSC1=CC=C(C=C1)S(=O)(=O)O)S(=O)(=O)O | C12H10O6S4
